US04196299
378 g (3 moles) of acetylthiophene, 594 g (6 moles) of cyclohexylamine and 6 ml of formic acid are azeotropically dehydrated by means of 1 liter of toluene. When all the water has been removed, the solution is cooled and the toluene and excess amine are removed under reduced pressure of 18 mm of mercury, without exceeding 120° C. in the reactor. In this way, 630 g of acetylthiophene N-cyclohexylimine are obtained, titrating 94.5% by gas phase chromatography, namely a yield of 97%. NMR spectrum in carbon tetrachloride

reactant | acetylthiophene | 3 moles, 378 g | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | cyclohexylamine | 6 moles, 594 g | C1(CCCCC1)N | C6H13N
reactant | formic acid | 6 ml | C(=O)O | CH2O2
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | acetylthiophene N-cyclohexylimine | 630 g, yield of 97% | C1(CCCCC1)N=C(C)C=1SC=CC1 | C12H17NS
